US06855722B2
c) 7-{2-[1-(2-Ethoxycarbonyl-1-naphthalen-2-yl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from naphthalene-2-yl-propynoic acid ethyl ester and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in 88% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) δ 7.85 (m, 4H), 7.50 (m, 2.6H), 7.33 (m, 1.6H), 7.12 (m, 1.8H), 6.95 (m, 1.4H), 6.74 (m, 1.6H), 6.61 (d, 0.6H, J=0.4 Hz), 6.50 (d, 0.4H, J=0.4 Hz), 6.35 (s, 0.6H), 6.23 (s, 0.4 Hz), 4.36 (t, 2H, J=8.0 Hz), 4.05 (m, 2H), 3.76 (m, 2H), 3.20 (t, 2H, J=8.0), 2.73 (t, 2H, J=8.0 Hz), (m, 2H), 1.51 (s, 9H), 1.07 (m, 3H).

reactant | naphthalene-2-yl-propynoic acid ethyl ester | C(C)OC(C#CC1=CC2=CC=CC=C2C=C1)=O | C15H12O2
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-{2-[1-(2-Ethoxycarbonyl-1-naphthalen-2-yl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 88% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C38H39N3O5
